US07217730B2
(5-Cyano-7-formyl-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester
To a solution of (5-cyano-7-hydroxymethyl-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid (8.28 g, 22 mmol) in dichloroethane/benzene (85 mL/85 mL) was added a homogeneous mixture of activated MnO2 (19.4 g, 223 mmol) and Celite (19.4 g). The solution was heated to 40° C. and agitated vigorously for 1.3 hours. The reaction was cooled, diluted with EtOAc and filtered through Celite. Concentration of the filtrate in vacuo afforded 7.88 g (96%) of a pale yellow foam. 1H NMR (CDCl3) δ 10.31 (bs, 1 H), 10.27 (s, 1H), 7.90 (s, 1H), 4.27 (m, 2H), 4.11 (m, 1H), 3.95 (m, 1H), 3.09 (m, 2H), 3.04 (d, J=17.0 Hz, 1H), 2.95 (d, J=7.6 Hz, 1H), 2.57 (s, 3H), 2.00 (m, 2H), 1.30 (m, 4H), 0.90 (t, J=7.62 Hz, 2H).

reactant | (5-cyano-7-hydroxymethyl-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid | 22 mmol, 8.28 g | C(#N)C1=C2C3=C(NC2=C(C(=C1)CO)C)C(OCC3)(CCC)CC(=O)O | C19H22N2O4
reactant | dichloroethane benzene | 85 mL | ClC(C)Cl.C1=CC=CC=C1
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | MnO2 | 223 mmol, 19.4 g | O=[Mn]=O
product | (5-Cyano-7-formyl-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acetic acid ethyl ester | 7.88 g, 96% | C(C)OC(CC1(OCCC2=C1NC1=C(C(=CC(=C21)C#N)C=O)C)CCC)=O | C21H24N2O4
